US04297349
Step B, n-Decyl-dimethyl-(3-iodopropyl)-silane
A mixture of 25.0 g (166 mmoles) of sodium iodide, 120 ml. of acetonitrile (dried over molecular sieves) and 26.4 g (95.4 mmoles) of n-decyl-dimethyl (3-chloropropyl)-silane is stirred at near the reflux temperature of the mixture (at about 80°) for 40 hrs. After cooling, the mixture is mixed with water and toluene, and the organic phase recovered, washed thrice with water, then dried and concentrated (to about 40 ml) of an oil which on distillation using a Kugelrohr apparatus yields as the main fraction, refined title product of this step at 83° to 139°, at 0.140-0.095 mm Hg. for use in the next step.

reactant | sodium iodide | 166 mmoles, 25.0 g | [I-].[Na+]
reactant | acetonitrile | C(C)#N | C2H3N
reactant | n-decyl-dimethyl (3-chloropropyl)-silane | 95.4 mmoles, 26.4 g | C(CCCCCCCCC)[Si](CCCCl)(C)C | C15H33ClSi
reactant | water | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | n-Decyl-dimethyl-(3-iodopropyl)-silane | C(CCCCCCCCC)[Si](CCCI)(C)C | C15H33ISi
